US05552317
In Example 30, a 20 g/l solution of DL-homophenylalanine methyl ester was prepared in a 0.2M phosphate buffer (pH 7.0). Then 10 g/l of a porcine pancreas lipase Sigma 3126 was also added. The mixture was caused to react at 30° C. The reaction conversion was measured by HPLC using an RP-18 column with a mobile phase consisting of 40:60 methanol/perchloric acid (pH 1.7) at an elution rate of 0.6 ml/min. The concentration of the eluent was detected at a wavelength of 215 nm. The optical purity of the product was measured using the CR(+) column with a mobile phase containing 15:85 methanol/perchloric acid (pH 1.7), at an elution rate of 0.7 ml/min. The concentration of the eluent was detected at the same wavelength of 215 nm. After 120 minutes, the reaction conversion was measured to be at 61.5%, and the e.e. value for the D-homophenylalanine and its methyl ester was measured to be 94.4%.

reactant | phosphate | 0.2M, pH 7.0 | P(=O)([O-])([O-])[O-]
reactant | methanol perchloric acid | pH 1.7 | CO.Cl(=O)(=O)(=O)O
reactant | methanol perchloric acid | pH 1.7 | CO.Cl(=O)(=O)(=O)O
reactant | D-homophenylalanine | N[C@H](CCC1=CC=CC=C1)C(=O)O | C10H13NO2
product | DL-homophenylalanine methyl ester | COC(C(N)CCC1=CC=CC=C1)=O | C11H15NO2
